US06534524B1
1-(2,4,6-Trimethyl-benzenesulfonyl)-1H-pyrrole-2-carbaldehyde (2.77 g, 10 mmol) in THF (100 ml) was treated with LiBH4 (0.44 g, 20 mmol) at rt. The resulting solution was held at rt for 1 h. MeOH, (10 ml) was then added, and the resulting mixture mixture was poured into brine (600 ml), and extracted with EtOAc (3×200 ml). The combined organic layer was dried over MgSO4 and concentrated under reduced pressure. The resulting oil was then purified on silica gel column to yield [1-(2,4,6-Trimethyl-benzenesulfonyl)-1H-pyrrol-2-yl]-methanol as a light brown oil (2.43 g, 87%). 1H MM (CDCl3) δ 7.17 (dd, 1H, J=3.3, 1.8 Hz), 6.99 (s, 2H), 6.28-6.23 (m, 1H), 6.18 (t, 1H, J=3.3 Hz), 4.42 (s, 2H), 2.50 (s, 6H), 2.30 (s, 3H).

reactant | 1-(2,4,6-Trimethyl-benzenesulfonyl)-1H-pyrrole-2-carbaldehyde | 10 mmol, 2.77 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N1C(=CC=C1)C=O | C14H15NO3S
reactant | LiBH4 | 20 mmol, 0.44 g | [Li+].[BH4-]
reactant | MeOH | 10 ml | CO | CH4O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | brine | 600 ml | [Cl-].[Na+].O
product | [1-(2,4,6-Trimethyl-benzenesulfonyl)-1H-pyrrol-2-yl]-methanol | 2.43 g, 87% | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N1C(=CC=C1)CO | C14H17NO3S
